US04054664
11.9 g. Prop-2-ynyl bromide was added to a solution of 14.3 g. 5-mercapto-3-isopropyl-1,2,4-triazole in sodium methoxide solution (2.3 g. sodium dissolved in 200 ml. methanol). Then the solution was boiled under reflux for 2 1/2 hours. The solvent was evaporated under reduced pressure from the steam bath and the residual solid triturated with 500 ml. cold water, filtered off and dried under vacuum to give 3-isopropyl-5-prop-2-ynylthio-1,2,4-triazole which was purified by recrystallisation in the presence of charcoal, from petroleum ether (boiling point 80°-100° C.). The melting point of the product was 91°-92° C.

reactant | Prop-2-ynyl bromide | C(C#C)Br | C3H3Br
reactant | 5-mercapto-3-isopropyl-1,2,4-triazole | SC1=NC(=NN1)C(C)C | C5H9N3S
solvent | sodium methoxide | 200 ml, 2.3 g | C[O-].[Na+]
product | 3-isopropyl-5-prop-2-ynylthio-1,2,4-triazole | C(C)(C)C1=NNC(=N1)SCC#C | C8H11N3S
